* SPICE Netlist
* Components
M1 2 4 3 3 NMOS
I1 3 0 DC I2n,in
RD 2 1 RD
VDD 1 0 DC VDD

* Node Mapping
* 1: VDD
* 2: Vn2_out
* 3: Ground
* 4: Vb

* End of Netlist